US04985427
N-(2,6-Difluorophenyl)glycine methyl ester
A suspension of 2,6-difluoroaniline (15.0 g) and sodium bicarbonate (19.5 g) in methyl chloroacetate (15.2 ml) was stirred at 90°-100° under nitrogen for 16 h. Methyl bromoacetate (11.0 ml) and sodium bicarbonate (9.75 g) were added, and the suspension was stirred at 90°-100° for a further 5 h. Work up according to the method of Intermediate 11 gave an oil (14.7 g) which was purified by FCC eluting with system A (1:8) to give the title compound (8.27 g) as an oil, t.l.c. (System A, 1:8) Rf 0.3.

reactant | 2,6-difluoroaniline | 15.0 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | sodium bicarbonate | 19.5 g | C([O-])(O)=O.[Na+]
reactant | Methyl bromoacetate | 11.0 ml | BrCC(=O)OC | C3H5BrO2
reactant | sodium bicarbonate | 9.75 g | C([O-])(O)=O.[Na+]
solvent | methyl chloroacetate | 15.2 ml | ClCC(=O)OC | C3H5ClO2
product | N-(2,6-Difluorophenyl)glycine methyl ester | 14.7 g | COC(CNC1=C(C=CC=C1F)F)=O | C9H9F2NO2
